US04293557
150 mg of N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydroxyacetamide was dissolved in 0.5 ml of pyridine, and 150 mg of benzoyl chloride was added dropwise to the solution under ice cooling. After the addition, the mixture was stirred at room temperature for 2 hours. The solvent was distilled off and water was added. The mixture was alkalized with aqueous ammonia, and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was separated and purified by TLC (developing solvent: chloroform/methanol=19/l) to afford 165 mg of N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]benzoyloxyacetamide.

reactant | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydroxyacetamide | 150 mg | N1(CCCCC1)CC=1C=C(OCCCNC(CO)=O)C=CC1 | C17H26N2O3
reactant | benzoyl chloride | 150 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]benzoyloxyacetamide | 165 mg | N1(CCCCC1)CC=1C=C(OCCCNC(COC(C2=CC=CC=C2)=O)=O)C=CC1 | C24H30N2O4
